US05567350
Preparation of trans, trans-4-(4-n-propyloxycyclohexyl)-1-n-propyl-1-silacyclohexane
50 ml of a tetrahydrofuran solution of 1.0M 4-propyl-4-silacyclohexyl magnesium bromide was dripped into a mixture of 12.0 g (54.3 mmol) of 4-bromocyclohexyl n-propylether, 100 mg of copper iodide (I), 200 mg of triethyl phosphite and 50 ml of tetrahydrofuran. After a conventional after treatment, the product thus obtained was purified by means of silica-gel column chromatography to obtain 9.60 g (yield 68%) of the trans, trans isomer.

reactant | 4-propyl-4-silacyclohexyl magnesium bromide | 1.0M | C(CC)[SiH]1CCC(CC1)[Mg]Br
reactant | 4-bromocyclohexyl n-propylether | 54.3 mmol, 12.0 g | BrC1CCC(CC1)CCCOCCCC1CCC(CC1)Br | C18H32Br2O
reactant | triethyl phosphite | 200 mg | P(OCC)(OCC)OCC | C6H15O3P
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | copper iodide | 100 mg | [Cu](I)I
product | trans-4-(4-n-propyloxycyclohexyl)-1-n-propyl-1-silacyclohexane | yield 68% | C(CC)OC1CCC(CC1)[C@@H]1CC[Si@H](CC1)CCC | C17H34OSi
